US06495546B1
Under nitrogen, to a solution of 2-[8-[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylaminophenyl)ethylamino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid tert-butyl ester (257 mg) in dichloromethane (5 ml) was added trifluoroacetic acid (1 ml) at 5° C., and the mixture was stirred at room temperature for 3 hours. The resulting mixture was evaporated in vacuo. The residue was treated with 4N hydrogen chloride in 1,4-dioxane to give 2-[8-[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylaminophenyl)ethylamino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid hydrochloride (247 mg).

reactant | 2-[8-[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylaminophenyl)ethylamino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid tert-butyl ester | 257 mg | C(C)(C)(C)OC(COC=1C=CC2=C(CC(CCC2)NC[C@@H](C2=CC(=C(C=C2)O)NS(=O)(=O)C)O)C1)=O | C26H36N2O7S
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-[8-[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylaminophenyl)ethylamino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid hydrochloride | 247 mg | Cl.O[C@@H](CNC1CCCC2=C(C1)C=C(C=C2)OCC(=O)O)C2=CC(=C(C=C2)O)NS(=O)(=O)C | InChI=1S/C22H28N2O7S.ClH/c1-32(29,30)24-19-11-15(6-8-20(19)25)21(26)12-23-17-4-2-3-14-5-7-18(10-16(14)9-17)31-13-22(27)28;/h5-8,10-11,17,21,23-26H,2-4,9,12-13H2,1H3,(H,27,28);1H/t17?,21-;/m0./s1
